US05876628
5-(4-Cyclohexylphenyl)-2-octyloxypyrimidine
2 g (6.96 mmol) of 5-bromo-2-octylpyrimidine, 1.42 g (6.96 mmol) of 4-cyclohexylbenzeneboronic acid, 1.5 g (14.00 mmol) of sodium carbonate and 0.08 g (0.07 mmol) of tetrakisphenylphosphine paradium were refluxed for 4 hours in 40 ml of toluene, 10 ml of ethanol and 10 ml of water.

reactant | 5-bromo-2-octylpyrimidine | 6.96 mmol, 2 g | BrC=1C=NC(=NC1)CCCCCCCC | C12H19BrN2
reactant | 4-cyclohexylbenzeneboronic acid | 6.96 mmol, 1.42 g | C1(CCCCC1)C1=CC=C(C=C1)B(O)O | C12H17BO2
reactant | sodium carbonate | 14.00 mmol, 1.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tetrakisphenylphosphine | 0.07 mmol, 0.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21P
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-(4-Cyclohexylphenyl)-2-octyloxypyrimidine | C1(CCCCC1)C1=CC=C(C=C1)C=1C=NC(=NC1)OCCCCCCCC | C24H34N2O
